US09061999B2
2-methoxy-5-nitrophenol (254 mg, 1.5 mmol, 1 eq.) was placed in dimethylformamide (3 mL) with 4-(2-chloro-ethyl)morpholine hydrochloride (837 mg, 4.5 mmol, 3 eq.), Cs2CO3 (3.4 g, 10.7 mmol, 7 eq.), KI (547 mg, 3.3 mmol, 2.2 eq.). The reaction mixture was heated at 80° C. and stirred for 20 hours. The reaction mixture was then concentrated under reduced pressure and the resulting residue was diluted with ethyl acetate. The organic phase was washed with a 1% NaOH aqueous solution, dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford 4-(2-(2-methoxy-5-nitrophenoxy)ethyl)morpholine (386 mg, 91%).

reactant | 2-methoxy-5-nitrophenol | 1.5 mmol, 254 mg, 1 eq. | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 4-(2-chloro-ethyl)morpholine hydrochloride | 4.5 mmol, 837 mg, 3 eq. | Cl.ClCCN1CCOCC1
reactant | Cs2CO3 | 10.7 mmol, 3.4 g, 7 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(2-(2-methoxy-5-nitrophenoxy)ethyl)morpholine | 386 mg, 91% | COC1=C(OCCN2CCOCC2)C=C(C=C1)[N+](=O)[O-] | C13H18N2O5
